Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ history of recurrent
palpitations, reported cardiomegaly though ECHO from ___, presenting with new sharp, nonpleuritic chest pain 
radiating
to L arm, with vitals notable for tachycardia.

Pt reports he has had ongoing lightheadness and dizziness for
which he has been seen by cardiology at ___ who recommended
a Holter monitor, though patient has not obtained one yet as he
does not want to wear it. This episode was somewhat atypical,
however, given he also experienced new sharp chest pain that is
nonpleuritic in nature and radiates to the left arm which he has
not experienced before.

He also presented to ___ previously for alcohol
intoxication, at which time he was incidentally noted to have
cardiomegaly. An ECHO at that time however showed a normal EF,
diastolic function, and no signs of cardiomegaly. PASP was
normal.

On review of patient's BI records from ___, it seems as though
patient was admitted previously for afib with RVR thought to be
due to ongoing alcohol and cocaine use. He was supposed to
undergo DCCV though the procedure was subsequently canceled as
patient was noted to be in NSR in the holding area. 

In the ED, initial VS were: 97.1 ___ 18 100% RA
Exam notable for:
Gen: Young man smelling of EtOH in no apparent distress 
Pulm: CTAB no WRR, unlabored breathing
CV: Tachycardic rate loud S1 otherwise no murmurs rubs gallops 
HEENT: Dry mucous membranes
Abdomen: Soft NTND, no rebound tenderness, +BS
Extremities: FROM in all 4 extremities, 2+ pulses peripherally
Skin: Warm, dry and intact
Neuro: No gross neurologic deficits, alert and oriented, moves
all extremities no obvious facial abnormalities
ECG: Sinus tachycardia
Labs showed: Unremarkable, trops x 2 
Imaging showed: CXR negative. CTAPE
1. Limited assessment of left lower lobe sub segmental branches.
Within this
limitation, no evidence of pulmonary embolism or aortic
abnormality.
2. Mildly dilated main pulmonary artery. This can be seen in
pulmonary
arterial hypertension.
3. Hepatic steatosis.
Consults: None
Patient received: 2L NS, losartan, HCTZ
Transfer VS were: 121 146/88 15 97% RA

On arrival to the floor, patient's tachycardia resolved. He is
chest pain free without any complaints. He does report prior to
admission he had been drinking, unable to quantify how much. He
usually drinks ___ drinks when he does, mainly during the
weekends. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
Medical History:
-HTN
-Palpitations since age ___
-Afib w/ RVR in past attributed to alcohol use
-Active smoker
-Alcohol use
-Cocaine abuse

Surgical History:
-s/p Tonsillectomy
-s/p Appendectomy

 
Social History:
___
Family History:
No history of heart disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.2 PO, 137 / 88 R Sitting, 90, 18, 95RA
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ 729)
    Temp: 98.4 (Tm 98.4), BP: 151/90 (137-151/85-90), HR: 76
(76-90), RR: 16 (___), O2 sat: 98% (95-98), O2 delivery: ra,
Wt: 234.79 lb/106.5 kg  
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS

___ 05:15AM BLOOD WBC-9.2 RBC-5.16 Hgb-14.6 Hct-43.6 MCV-85 
MCH-28.3 MCHC-33.5 RDW-14.3 RDWSD-43.9 Plt ___
___ 05:15AM BLOOD Neuts-63.5 ___ Monos-5.5 Eos-0.0* 
Baso-0.2 Im ___ AbsNeut-5.83 AbsLymp-2.80 AbsMono-0.51 
AbsEos-0.00* AbsBaso-0.02
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD Glucose-76 UreaN-17 Creat-1.1 Na-146 
K-6.3* Cl-104 HCO3-24 AnGap-18
___ 05:15AM BLOOD cTropnT-<0.01
___ 09:17AM BLOOD cTropnT-<0.01
___ 09:17AM BLOOD TSH-0.29
___ 09:17AM BLOOD ASA-NEG Ethanol-69* Acetmnp-NEG 
Tricycl-NEG
___ 07:49AM BLOOD K-4.8

DISCHARGE LABS

___ 07:05AM BLOOD WBC-6.2 RBC-4.59* Hgb-13.3* Hct-38.8* 
MCV-85 MCH-29.0 MCHC-34.3 RDW-14.6 RDWSD-44.6 Plt ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-105* UreaN-15 Creat-1.0 Na-142 
K-4.7 Cl-104 HCO3-28 AnGap-10
___ 07:05AM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD Calcium-8.7 Phos-2.2* Mg-1.9

PERTINENT STUDIES

Radiology ReportCTA CHEST Study Date of ___ 6:38 AM
IMPRESSION:
 
 
1. Limited assessment of left lower lobe sub segmental branches. 
 Within this
limitation, no evidence of pulmonary embolism or aortic 
abnormality.
2. Mildly dilated main pulmonary artery.  This can be seen in 
pulmonary
arterial hypertension, evaluation for the same may be 
considered.
3. Hepatic steatosis.

Radiology ReportCHEST (PA & LAT)Study Date of ___ 6:03 
AM
IMPRESSION: 
 
No acute cardiopulmonary abnormality.

MICROBIOLOGY
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 9:52 am
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
___ with history of ETOH and cocaine use, recurrent 
palpitations, HTN, reported cardiomegaly though echo from 
___ showed no evidence of cardiomegaly. Presented with new 
sharp, nonpleuritic chest pain radiating to L arm, with vitals 
notable for sustained sinus tachycardia, resolved on arrival to 
the floor.

ACUTE ISSUES:
===============
#Tachycardia
#Chest pain
Chest pain resolved spontaneously in ED. Sinus tachycardia on 
EKG. HRs ranging from 100s-120s. Noted to be intoxicated from 
ETOH on presentation to the ED ~18 hours prior to admission. 
Unable to quantify how much. He usually drinks ___ drinks when 
he does, mainly during the weekends. Initially fluid responsive 
though persistent despite 2L NS. Urine tox screen positive for 
cocaine. Patient endorses using cocaine a day or so prior to 
symptoms started. EKG without signs of ischemia, trops x3 
negative. CTPE negative for PE. Labs unremarkable and no signs 
of infection. TSH within normal limits. Likely autonomic 
hyperactivity iso acute intoxication from cocaine (especially 
given the chest pain component) and possible contribution from 
mild ETOH withdrawal and dehydration. Resolved on arrival to the 
floor and fro the remainder of the day. Both this 
hospitalization episode and his chronic intermittent 
palpitations for which he has had a cardiac workup (see below) 
are felt to be related to his ongoing drug use, especially 
cocaine.

CHRONIC ISSUES:
===============
#Recurrent palpitations
In setting of of ongoing cocaine and alcohol use. Known history 
of recurrent palpitations accompanied by lightheadness and 
dizziness for which he has been seen by cardiology at ___ 
who recommended a Holter monitor. At the time patient was not 
interested in wearing one. He also presented to ___ 
previously for alcohol intoxication, at which time he was 
incidentally noted to have cardiomegaly. An ECHO at that time 
however showed a normal EF, diastolic function, and no signs of 
cardiomegaly. PASP was normal. On review of patient's BI records 
from ___, it appears patient was admitted previously for afib 
with RVR thought to be due to ongoing alcohol and cocaine use. 
He was supposed to undergo ___ though the procedure was 
subsequently canceled as patient was noted to be in NSR in the 
holding area. Recommend addressing ongoing drug use as below.

#Cocaine use disorder
#Tobacco use disorder
#Alcohol use disorder
No hx of withdrawal from ETOH in the past. Mild ETOH withdrawal 
and/or cocaine intoxication potentially contributed to chest 
pain and persistent sinus tachycardia this admission. Monitored 
on CIWA without incident. No further episodes of chest pain 
while inpatient. Gave thiamine/folate/multivitamin. Counseled 
patient on the harm that cocaine can cause, including MI and 
death, and to prioritize attempting to wean cocaine use, 
followed by tobacco and then alcohol use. Wrote for nicotine 
patch at discharge. Recommend ongoing discussions with patient 
about his drug use.

#HTN
Stable. Continued home losartan, HCTZ.

TRANSITIONAL ISSUES
-Was prescribed nicotine patch 21mg/day. If patient decides to 
use the patch, should be on 21mg/day for six weeks, then 14 
mg/day for two weeks, and finish with 7 mg/day for two weeks.
-Both this hospitalization episode and his chronic intermittent 
palpitations for which he has had a cardiac workup are felt to 
be related to his ongoing drug use, specifically cocaine. Would 
recommend making this the focus of his follow-up visit.
-Can consider holter monitor/further cardiac work up if 
palpitations persist despite prolonged abstinence from cocaine.

CORE MEASURES:
===============
#CONTACT: Next of Kin: ___
Relationship: MOTHER
Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 100-25 mg oral DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*3 
2.  Nicotine Patch 21 mg/day TD DAILY Duration: 6 Weeks 
RX *nicotine 21 mg/24 hour replace current patch with new one 
each day once a day Disp #*42 Patch Refills:*0 
3.  losartan-hydrochlorothiazide 100-25 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
Sinus tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
-You had an episode of chest pain and your heart rates were 
persistently elevated.
 
What was done for you in the hospital:
-You received intravenous fluids because you were dehydrated, 
and we got an EKG and checked labs to make sure you didn't have 
a heart attack.
 
What you should do after you leave the hospital:

- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.

- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.

- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

-Please stop using cocaine, it is very bad for your health and 
can result in sudden death. You should also consider quitting 
smoking and cutting down on alcohol use given the negative 
effects on your health. Please discuss your options with your 
PCP, we have given you a prescription for a nicotine patch in 
the meantime. 

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___